Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])([H:7])=[C:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[O:4],1.3277435979
[H:1][C:2]([H:3])=[C:4](/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])=[C:7][H:8])[C:13]([H:14])([H:15])[H:16],4.52488233145
[H:1][C:2]([H:3])[O:4][C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:5]([O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][C:2]([H:3])=[O:4],1.33389751715
[H:1][C:2]([H:3])=[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.030856711
[H:1][C:2]/[C:3]([C:4][O:5][H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2][C:3]([C:4][O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],2.09655307985
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:3],5.11474351621
[C:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]#[C:7])[O:9][H:10].[H:8]>>[C:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10],-5.99310539794
[H:1][O:2][C:3](=[C:4][H:5])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-5.14717790547
[C:2]#[C:3][C:4]([H:5])([H:6])[O:7][H:8].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][H:8],-6.02826293801
[C:2]([H:3])([H:4])=[O:7].[O:1]([C:5]([H:6])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15])[H:8]>>[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-0.6880269379620001
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[H:10],1.31771180709
[C:1][C:2]#[C:3][C:4]([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:5]>>[C:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.24185958855
[H:1][C:2]([H:3])=[C:4]=[C:11]([H:12])[H:13].[O:5]=[C:6]([H:7])[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[C:4]([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-0.51081267735
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10]>>[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[O:9],1.50985932527
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[H:1][C:2]=[O:3],0.773761895769
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6][H:7]>>[O:1]=[C:2][C@:3]([H:4])([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.11140351347
[H:1].[O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.64233082051
[C:5]([H:6])([H:7])=[C:8][C:9]([H:10])([H:11])[H:12].[O:1]1[C:2][C:3]1[H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-0.6217364983899999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([O:9][H:10])[O:11][H:12]>>[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9])[O:11][H:12],4.68548869042
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])[H:9],4.19016471583
[H:1][C:2]#[C:3][C:4]([H:5])([O:6][H:7])[O:8][H:9]>>[C:2]#[C:3][C:4]([H:5])([O:6][H:7])[O:8][H:9].[H:1],5.9792498190400005
[C:10]([H:11])([H:12])[O:13][H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-3.76692444397
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:2][C:5]([H:3])([H:4])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:7]([C:6])([H:8])[H:9],9.06974371
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[O:1][C:2]#[C:3][H:4],1.13120487452
[C:9]([H:10])([H:11])=[C:12]=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15],-1.22401686258
[C:1][C:2][O:3].[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-1.17844941097
[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[H:4].[O:5]=[C:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],0.8403936982889999
[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4](=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:5],1.5643799576
